US06936596B2
Production of 2-(6-cyano-1-hexyn-1-yl)adenosine 5′-monophosphate
A triethylammonium 2-(6-cyano-1-hexyn-1-yl)adenosine 5′-monophosphate (1.1 g) was dissolved in water (20 mL), and, under ice-cooling conditions, 1N HCl solution (2 mL) was added thereto, followed by standing for 10 minutes. After having been diluted with water (20 mL), the resultant mixture was filtered. The residue was washed with water (20 mL) and then with ethanol (20 mL×2), to thereby yield 617 mg of the above-titled compound as a colorless amorphous substance.

reactant | triethylammonium 2-(6-cyano-1-hexyn-1-yl)adenosine 5′-monophosphate | 1.1 g | P(=O)([O-])([O-])OC[C@@H]1[C@H]([C@H]([C@@H](O1)N1C=NC=2C(N)=NC(=NC12)C#CCCCCC#N)O)O.C(C)[NH+](CC)CC.C(C)[NH+](CC)CC
reactant | HCl | 1N, 2 mL | Cl | ClH
solvent | water | 20 mL | O | H2O
solvent | water | 20 mL | O | H2O
product | 2-(6-cyano-1-hexyn-1-yl)adenosine 5′-monophosphate | P(=O)(O)(O)OC[C@@H]1[C@H]([C@H]([C@@H](O1)N1C=NC=2C(N)=NC(=NC12)C#CCCCCC#N)O)O | C17H21N6O7P
